US07220759B2
Diisopropylamine (3.03 g) was dissolved in tetrahydrofuran (30 mL) and a solution (1.58 mol/L, 17.7 mL) of n-butyllithium in n-hexane was added dropwise under a nitrogen stream at −78° C. Subsequently, a solution of N,N-diethyl-2,3-dimethylbenzamide (3.28 g) in tetrahydrofuran was added dropwise. After the completion of the dropwise addition, the mixture was stirred at −78° C. for 1 hr. A solution of (R)-3-(2-methoxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide (3.22 g) in tetrahydrofuran was added dropwise and the mixture was stirred at −78° C. for 30 min. After the completion of the reaction, concentrated hydrochloric acid (15 ml) and water (30 mL) were added and the mixture was heated under reflux. Tetrahydrofuran and hexane were evaporated and the mixture was further heated under reflux for 6 hr. After the completion of the reaction, the reaction mixture was cooled to room temperature and basified by adding potassium carbonate. The mixture was extracted with chloroform and dried over magnesium sulfate. The solvent was concentrated and the obtained residue was purified by silica gel column chromatography. The fraction eluted with chloroform:methanol=50:1 was concentrated to give (R)-5-methyl-3-[2-(2-methoxymethylpyrrolidin-1-yl)ethyl]isocoumarin (3.2 g).

reactant | Diisopropylamine | 3.03 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.58 mol/L, 17.7 mL | C(CCC)[Li]
reactant | N,N-diethyl-2,3-dimethylbenzamide | 3.28 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | (R)-3-(2-methoxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide | 3.22 g | COC[C@@H]1N(CCC1)CCC(=O)N(C)OC | C11H22N2O3
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 30 mL | O | H2O
product | (R)-5-methyl-3-[2-(2-methoxymethylpyrrolidin-1-yl)ethyl]isocoumarin | 3.2 g | CC1=C2C=C(OC(=O)C2=CC=C1)CCN1[C@H](CCC1)COC | C18H23NO3
